US07435815B2
N-Benzyl-N-ethyl-2-[(5-isopropyl-pyridine-2-sulfonyl)-(6-methoxy-pyridin-3-yl)-amino]-acetamide
prepared by reaction of [(5-isopropyl-pyridine-2-sulfonyl)-(6-methoxy-pyridin-3-yl)-amino]-acetic acid with benzyl-ethyl-amine

reactant | [(5-isopropyl-pyridine-2-sulfonyl)-(6-methoxy-pyridin-3-yl)-amino]-acetic acid | C(C)(C)C=1C=CC(=NC1)S(=O)(=O)N(C=1C=NC(=CC1)OC)CC(=O)O | C16H19N3O5S
reactant | benzyl-ethyl-amine | C(C1=CC=CC=C1)NCC | C9H13N
product | N-Benzyl-N-ethyl-2-[(5-isopropyl-pyridine-2-sulfonyl)-(6-methoxy-pyridin-3-yl)-amino]-acetamide | C(C1=CC=CC=C1)N(C(CN(C=1C=NC(=CC1)OC)S(=O)(=O)C1=NC=C(C=C1)C(C)C)=O)CC | C25H30N4O4S
